### PR TITLE
feat(Wikipedia): Goodman's conjecture on coefficients of p-valent functions

### LINKED ISSUE #3477: Goodman's conjecture on coefficients of p-valent functions
### What is the conjecture

 A regular function is **$p$-valent** if it assumes each value at most $p$ times in the unit disk, and some value exactly $p$ times. For such a function $f(z) = z + \sum_{n=2}^{\infty} b_n z^n$, Goodman's conjecture (1948) asserts that the coefficients $b_n$ satisfy:

$$|b_{n}| \leq \sum _{k=1}^{p}{\frac {2k(n+p)!}{(p-k)!(p+k)!(n-p-1)!(n^{2}-k^{2})}}|b_{k}|$$

The conjecture provides a bound on the modulus of the $n$-th coefficient as a linear combination of the moduli of the first $p$ coefficients. This is a generalization of coefficient bounds from univalent functions ($p=1$) to the broader class of $p$-valent functions. The conjecture has been verified for several special cases, including $p$-valent typically-real functions and certain classes of $p$-valent functions that generalize convex univalent functions.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Goodman%27s_conjecture, https://projecteuclid.org/euclid.pjm/1102784341

### Prerequisites needed

**Formalizability Rating:** 3/5 (0 is best) (as of 2026-03-08)

Building blocks (1-3; from search results):
- Complex function theory definitions from Mathlib
- Factorial and combinatorial expressions available in Mathlib
- Summation notation and absolute values

Missing pieces (exactly 2; unclear/absent from search results):
- Formal definition of $p$-valent functions in complex analysis (requires establishing regularity and multiplicity conditions in the complex plane)
- Infrastructure for coefficient bounds on power series of analytic functions (requires connecting power series theory with function properties)

Rating justification (1-2 sentences): While basic components like factorials and sums exist in Mathlib, formalizing this conjecture requires developing the theory of $p$-valent functions and their coefficient characterization, which is a specialized area of complex analysis not currently in Mathlib. The inequality itself is expressible, but the supporting definitions and properties of $p$-valent functions require significant new infrastructure.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-30
* ams-32

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

If you have feedback on mistakes / hallucinations, feel free to just write it in the issue. See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

### PR DESCRIPTION
**Pull request by him1411**
Closes #3477.

Formalizes the statement of [Goodman's conjecture](https://en.wikipedia.org/wiki/Goodman%27s_conjecture) (1948) on the coefficients of $p$-valent functions.

For a $p$-valent normalised function $f(z) = z + \sum_{n\ge2} b_n z^n$ on the unit disk, the conjecture bounds the $n$-th coefficient ($n > p$) by
$$|b_n| \le \sum_{k=1}^{p} \frac{2k\,(n+p)!}{(p-k)!\,(p+k)!\,(n-p-1)!\,(n^2-k^2)}\,|b_k|.$$

Contents:
- `IsPValent` — analytic on the disk, every value attained at most $p$ times, some value exactly $p$ times.
- `coeff f n` — the $n$-th Taylor coefficient $f^{(n)}(0)/n!$ (via `iteratedDeriv`), with `IsNormalized` fixing $f(0)=0$, $f'(0)=1$.
- `goodmanBound` — the RHS sum.
- `goodman_conjecture` (`research open`) — the bound (`sorry`, as the conjecture is open).
- `goodmanBound_one` (`test`) — **proved** sanity lemma: the $p=1$ bound reduces to the classical $|b_n| \le n$. This validates the `goodmanBound` definition (the single $k=1$ summand $\frac{2(n+1)!}{0!\,2!\,(n-2)!\,(n^2-1)}$ reduces to $n$).

Compiles against the pinned Mathlib. The only `sorry` is the open conjecture itself. Follows the structure of `Wikipedia/Brennanconjecture.lean`. Adds myself to `AUTHORS`.

### CODE REVIEW

File: FormalConjectures/Wikipedia/GoodmanConjecture.lean [hunk 1]
```diff
@@ -0,0 +1,114 @@
...
+- Goodman, A. W., *On some determinants related to $p$-valent functions*,
+  Trans. Amer. Math. Soc. 63 (1948), 175–192.
+-/
+
+open Complex Set
+
+namespace GoodmanConjecture
+
+/-- The open unit disk $\mathbb{D} = \{z : |z| < 1\}$ in the complex plane. -/
+def unitDisk : Set ℂ := {z | ‖z‖ < 1}
```
Comment (mo271) [inline FormalConjectures/Wikipedia/GoodmanConjecture.lean]:
```suggestion
def unitDisk : Set ℂ := Metric.ball 0 1
```
Also I would just inline this!

File: FormalConjectures/Wikipedia/GoodmanConjecture.lean [hunk 2]
```diff
@@ -0,0 +1,114 @@
...
+
+/-- A function `f : ℂ → ℂ` is **`p`-valent** on the unit disk if it is analytic there, attains
+every value at most `p` times, and attains some value exactly `p` times. Here `p ≥ 1`. -/
+structure IsPValent (f : ℂ → ℂ) (p : ℕ) : Prop where
+  one_le_p   : 1 ≤ p
+  analyticOn : AnalyticOn ℂ f unitDisk
+  /-- Every value `w` is attained at most `p` times on the disk. -/
+  atMost     : ∀ w : ℂ, {z ∈ unitDisk | f z = w}.ncard ≤ p
```
Comment (mo271) [inline FormalConjectures/Wikipedia/GoodmanConjecture.lean]:
```suggestion
  atMost     : ∀ w : ℂ, {z ∈ unitDisk | f z = w}.encard ≤ p
```
perhaps better to use `encard` here?

File: FormalConjectures/Wikipedia/GoodmanConjecture.lean [hunk 3]
```diff
@@ -0,0 +1,114 @@
...
+  /-- Some value `w` is attained exactly `p` times on the disk. -/
+  exactly    : ∃ w : ℂ, {z ∈ unitDisk | f z = w}.ncard = p
```
Comment (mo271) [inline FormalConjectures/Wikipedia/GoodmanConjecture.lean]:
```suggestion
  exactly    : ∃ w : ℂ, {z ∈ unitDisk | f z = w}.encard = p
```
same here

File: FormalConjectures/Wikipedia/GoodmanConjecture.lean [hunk 4]
```diff
@@ -0,0 +1,114 @@
...
+
+/-- The `n`-th Taylor coefficient of `f` at `0`, i.e. `b_n = f⁽ⁿ⁾(0) / n!`. With the normalisation
+`f z = z + ∑_{n ≥ 2} b_n zⁿ` used below, `coeff f 1 = 1`. -/
+noncomputable def coeff (f : ℂ → ℂ) (n : ℕ) : ℂ := iteratedDeriv n f 0 / n.factorial
+
+/-- Goodman's normalisation `f z = z + ∑_{n ≥ 2} b_n zⁿ`, i.e. `f 0 = 0` and `f'(0) = 1`. -/
+structure IsNormalized (f : ℂ → ℂ) : Prop where
+  map_zero   : f 0 = 0
+  deriv_zero : deriv f 0 = 1
```
Comment (mo271) [inline FormalConjectures/Wikipedia/GoodmanConjecture.lean]:
```suggestion
```

do we really want that here: 
For general $p$-valent functions ($p \ge 2$), $b_1 = f'(0)$ does not need to be $1$. In fact, canonical extremal functions such as $f(z) = z^p$ have $f'(0) = 0$. Requiring deriv f 0 = 1 improperly excluded valid $p$-valent functions or am I misunderstanding something here?

**Review by mo271 — COMMENTED** [review]
Thanks! Left a few comments. 
Also generally: make sure to use latex markdown instead of backticks.

**Comment by him1411** [comment]
hi @mo271, I've updated the code based o your suggestions. Please let me know if there is anything pending on my end.

**Comment by him1411** [comment]
@mo271 gentle nudge on this PR. Please let me know if anything is required.

File: FormalConjectures/Wikipedia/GoodmanConjecture.lean [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+  Trans. Amer. Math. Soc. 63 (1948), 175–192.
+-/
+
+open Complex Set
+
+namespace GoodmanConjecture
+
+/-- A function `f : ℂ → ℂ` is **$p$-valent** on the open unit disk $\mathbb{D} = \{z : |z| < 1\}$
+if it is analytic there, attains every value at most $p$ times, and attains some value exactly
+$p$ times. Here $p \ge 1$. -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/GoodmanConjecture.lean]:
```suggestion
$p$ times. Here $p \ge 1$.
Values are counted at distinct points. For a non-constant analytic function this agrees with
counting with multiplicity: near a point where $f - w$ has a zero of order $m$, every value close
to $w$ is attained at $m$ distinct points, so the maximal number of distinct preimages equals the
maximal number of preimages counted with multiplicity. -/
```
perhaps some more explanation?

File: FormalConjectures/Wikipedia/GoodmanConjecture.lean [hunk 6]
```diff
@@ -0,0 +1,110 @@
...
+structure IsPValent (f : ℂ → ℂ) (p : ℕ) : Prop where
+  one_le_p   : 1 ≤ p
+  analyticOn : AnalyticOn ℂ f (Metric.ball 0 1)
+  /-- Every value $w$ is attained at most $p$ times on the disk. -/
+  atMost     : ∀ w : ℂ, {z ∈ Metric.ball 0 1 | f z = w}.encard ≤ p
+  /-- Some value $w$ is attained exactly $p$ times on the disk. -/
+  exactly    : ∃ w : ℂ, {z ∈ Metric.ball 0 1 | f z = w}.encard = p
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/GoodmanConjecture.lean:56]:
```suggestion

/-- The identity is $1$-valent (univalent) on the unit disk. -/
@[category test, AMS 30]
theorem isPValent_id_one : IsPValent id 1 where
  one_le_p := le_rfl
  analyticOn := analyticOnNhd_id.analyticOn
  atMost := fun w => by
    calc {z ∈ Metric.ball (0 : ℂ) 1 | id z = w}.encard ≤ ({w} : Set ℂ).encard :=
          Set.encard_le_encard (fun z hz => by simpa using hz.2)
      _ = 1 := by simp
  exactly := ⟨0, by
    have : {z ∈ Metric.ball (0 : ℂ) 1 | id z = 0} = {0} := by
      ext z
      constructor
      · rintro ⟨-, h⟩; simpa using h
      · rintro rfl; simp
    rw [this]; simp⟩

```

would that be a good test statement?

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!

Just two more little suggestions!
